US08729105B2
Preparation of 5-(tert-Butyldimethylsilyloxy)-1,1,1-trifluoropent-3-yn-2-one
To 50 mL of a 1.6M solution of n-BuLi (0.080 mol, 1 equ) in hexanes was added dropwise tert-butyldimethyl(prop-2-ynyloxy)silane (13.57 g; 0.080 mol; 1 equ) with dry ice acetone cooling. After addition the dry ice acetone bath was replaced by an ice acetone bath. When the mixture became difficult to stir toluene (25 mL) was added. The mixture became clear and was stirred at −10° C. for 15 min. To the resulting slightly yellow solution was added ethyl 2,2,2-trifluoroacetate (11.3 g; 0.080 mol; 1 equ) with cooling in a dry ice acetone bath (ca<−40° C.). After addition the dry ice acetone bath was replaced by an ice acetone bath and the mixture was stirred with thawing to room temperature for 18 h. The reaction mixture was poured onto ice mixed with 10% aqueous citric acid. The phases were separated and the organic phase was washed with 10% aqueous sodium bicarbonate and brine and purified by filtration over ca 350 g silica gel using heptane:dichloromethane=1:1 as eluent. The product fractions (dichloromethane:heptane 1:1; r.f.:0.3 KMnO4 staining) were pooled and evaporated to yield the title compound as an orange yellow oil (16.0 g, 75.4% Th), MS 266.277 (M)+.

reactant | n-BuLi | 0.080 mol | [Li]CCCC
reactant | tert-butyldimethyl(prop-2-ynyloxy)silane | 0.080 mol, 13.57 g | C(C)(C)(C)[Si](OCC#C)(C)C | C9H18OSi
reactant | ethyl 2,2,2-trifluoroacetate | 0.080 mol, 11.3 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(tert-Butyldimethylsilyloxy)-1,1,1-trifluoropent-3-yn-2-one | 16.0 g, 75.4% | [Si](C)(C)(C(C)(C)C)OCC#CC(C(F)(F)F)=O | C11H17F3O2Si
